US06462198B1
Diphenylacetyl-carbamic acid isopropyl ester
The title compound, white solid, m.p. 122-124° C. and MS: m/e=297 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and isopropyl alcohol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | Diphenylacetyl-carbamic acid isopropyl ester | C(C)(C)OC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C18H19NO3
